US05773442
550 mg of methyl 4 -[4 -(4 -cyanophenyl)-1-piperazinyl]-1-ethoxycarbonylmethyl-3-piperidinepropionate was dissolved in 20 ml of ethanol, into which hydrogen chloride was made to blow at from -10° C. to -20° C. until saturation. This was heated up to room temperature and stirred overnight, and thereafter the solvent was. removed by distillation. The residue thus obtained was dissolved in 20 ml of ethanol, and 1.0 g of ammonium carbonate was added thereto and stirred at room temperature overnight. The solvent was removed from the reaction mixture by distillation, and the resulting residue was purified by silica gel column chromatography (using an eluent of chloroform/methanol=10/1) to obtain 500 mg of ethyl 4-[4-(4-amidinophenyl)-1-piperazinyl]-1-ethoxycarbonylmethyl-3-piperidinepropionate hydrochloride.

reactant | methyl 4 -[4 -(4 -cyanophenyl)-1-piperazinyl]-1-ethoxycarbonylmethyl-3-piperidinepropionate | 550 mg | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C1C(CN(CC1)CC(=O)OCC)CCC(=O)OC | C24H34N4O4
reactant | ammonium carbonate | 1.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 4-[4-(4-amidinophenyl)-1-piperazinyl]-1-ethoxycarbonylmethyl-3-piperidinepropionate hydrochloride | 500 mg | Cl.C(N)(=N)C1=CC=C(C=C1)N1CCN(CC1)C1C(CN(CC1)CC(=O)OCC)CCC(=O)OCC | InChI=1S/C25H39N5O4.ClH/c1-3-33-23(31)10-7-20-17-28(18-24(32)34-4-2)12-11-22(20)30-15-13-29(14-16-30)21-8-5-19(6-9-21)25(26)27;/h5-6,8-9,20,22H,3-4,7,10-18H2,1-2H3,(H3,26,27);1H
